US06809199B2
To a solution of 11 mg of 1-(2,6-dichlorophenyl)-5-(2,4-difluorophenyl)-3,4-dihydro-7-methoxy-2(1H)-quinolinone in 2.5 mL of CCl4 was added 12 mg of N-bromosuccinimide and 6 mg of 2,2′azobis(2-methylpropionitrile). The mixture was heated to 80° C. for 1.5 h, then concentrated and purified by preparative thin-layer chromatography, eluting with 1:1 hexanes-EtOAc, to yield 1-(2,6-Dichlorophenyl)-5-(2,4-difluorophenyl)-7-methoxy-2(1H)-quinolinone. Mass spectrum (ESI) 432.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 7.56 (m, 3H); 7.44 (m, 1H); 7.37 (m, 1H); 7.02 (m, 2H); 6.76 (s, 1H); 6.58 (d, J=10 Hz, 1H); 6.01 (s, 1H); 3.73 (s, 3H).

reactant | 1-(2,6-dichlorophenyl)-5-(2,4-difluorophenyl)-3,4-dihydro-7-methoxy-2(1H)-quinolinone | 11 mg | ClC1=C(C(=CC=C1)Cl)N1C(CCC2=C(C=C(C=C12)OC)C1=C(C=C(C=C1)F)F)=O | C22H15Cl2F2NO2
reactant | N-bromosuccinimide | 12 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′azobis(2-methylpropionitrile) | 6 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 2.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(2,6-Dichlorophenyl)-5-(2,4-difluorophenyl)-7-methoxy-2(1H)-quinolinone | ClC1=C(C(=CC=C1)Cl)N1C(C=CC2=C(C=C(C=C12)OC)C1=C(C=C(C=C1)F)F)=O | C22H13Cl2F2NO2
